US04182881
A. N-[Dichlorophosphinyl]-4-nitrobenzamide
To a suspension of 68 g (0.41 mole) of 4-nitrobenzamide in 400 ml of AR carbon tetrachloride at 48° was added portionwise 85.2 g (0.41 mole) of phosphorus pentachloride. The reaction was heated at 65°-70° for 50 min., then cooled to 25°-30°. Added dropwise while maintaining a temperature of 30°, 19.4 g (0.41 mole) of 97% formic acid. After the evolution of gas (CO and HCl) had ceased the reaction was filtered, washed with AR carbon tetrachloride and air-dried to give 103.2 g, m.p. 134°-135.5°.

reactant | 4-nitrobenzamide | 0.41 mole, 68 g | [N+](=O)([O-])C1=CC=C(C(=O)N)C=C1 | C7H6N2O3
reactant | phosphorus pentachloride | 0.41 mole, 85.2 g | P(Cl)(Cl)(Cl)(Cl)Cl | Cl5P
reactant | formic acid | 0.41 mole, 19.4 g | C(=O)O | CH2O2
reactant | HCl | Cl | ClH
solvent | carbon tetrachloride | C(Cl)(Cl)(Cl)Cl | CCl4
product | N-[Dichlorophosphinyl]-4-nitrobenzamide | ClP(=O)(NC(C1=CC=C(C=C1)[N+](=O)[O-])=O)Cl | C7H5Cl2N2O4P
